US07179823B1
A mixture of [1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]acetic acid (4.16 g), methyl iodide (0.95 ml), potassium carbonate (2.76 g), and N,N-dimethylformamide (50 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain methyl [1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]acetate (4.21 g, yield 98%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 58–59° C.

reactant | [1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]acetic acid | 4.16 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CC(=O)O)C2=CC=C(C=C2)F)C=C1 | C25H21FN2O3
reactant | methyl iodide | 0.95 ml | CI | CH3I
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]acetate | 4.21 g, yield 98% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CC(=O)OC)C2=CC=C(C=C2)F)C=C1 | C26H23FN2O3
